US05948775
3-[4-(2-Chloro-ethoxy)-phenyl]-7-methoxy-2-(4-methoxy-phenyl)-3H-quinazolin-4-one
To a solution of 8.1 g (0.0185 mol) of 3-[4-(2-chloro-ethoxy)-phenyl]-7-methoxy-2-(4methoxy-phenyl)-2,3-dihydro-1H-quinazolin-4-one in 300 mL of toluene was added 4.2 g (0.0185 mol) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone. The reaction mixture was stirred and heated to reflux for 2 hours. The toluene was removed in a rotary evaporator. Ethanol (300 mL) was added to the reaction flask which was allowed to stir at room temperature overnight. The precipitate was collected by vacuum filtration and amounted to 6.9 g. The product (mp 186-187° C.) was used in the next step without further purification.

reactant | 3-[4-(2-chloro-ethoxy)-phenyl]-7-methoxy-2-(4methoxy-phenyl)-2,3-dihydro-1H-quinazolin-4-one | 0.0185 mol, 8.1 g | ClCCOC1=CC=C(C=C1)N1C(NC2=CC(=CC=C2C1=O)OC)C1=CC=C(C=C1)OC | C24H23ClN2O4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.0185 mol, 4.2 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(2-Chloro-ethoxy)-phenyl]-7-methoxy-2-(4-methoxy-phenyl)-3H-quinazolin-4-one | ClCCOC1=CC=C(C=C1)N1C(=NC2=CC(=CC=C2C1=O)OC)C1=CC=C(C=C1)OC | C24H21ClN2O4
